US08835426B2
A solution of N-(1-adamantylmethyl)-5-methyl-3-oxohexanamide (1.5 g, 5.1 mmol) in anhydrous THF (15 mL) was added slowly to a suspension of LAH (500 mg, 13.1 mmol) in anhydrous THF (5 mL) under N2 at 0° C. The reaction mixture was heated to 70° C. and stirred at this temperature overnight. Water (0.5 mL) and 10% aq NaOH (0.5 mL) were added to quench the reaction. The resulting slurry was filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography on a silica gel column eluted with 10:1 PE/EtOAc to give 1-(1-adamantylmethylamino)-5-methylhexan-3-ol (900 mg, 63.3%). MS (M+1): 280.

reactant | N-(1-adamantylmethyl)-5-methyl-3-oxohexanamide | 5.1 mmol, 1.5 g | C12(CC3CC(CC(C1)C3)C2)CNC(CC(CC(C)C)=O)=O | C18H29NO2
reactant | LAH | 13.1 mmol, 500 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 0.5 mL | O | H2O
reactant | NaOH | 0.5 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(1-adamantylmethylamino)-5-methylhexan-3-ol | 900 mg, 63.3% | C12(CC3CC(CC(C1)C3)C2)CNCCC(CC(C)C)O | C18H33NO
